US06599902B2
Synthesis of 2-{5-[5-(2,6-Dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-yl}-N-{2-[4-(2-hydroxy-acetyl)-piperazin-1-yl]-ethyl}-acetamide
A mixture of acetic acid 2-{4-[2-(2-{5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-yl}-acetylamino)-ethyl]-piperazin-1-yl}-2-oxo-ethyl ester (100 mg), 10% potassium carbonate in water and methanol (5 mL) was stirred at 40° C. for overnight. The reaction was concentrated, extracted with DCM. The combined DCM was dried, concentrated and purified on a silica gel column to give the titled compound as an orange-red solid. MS m/z 686 [M−1].

reactant | acetic acid 2-{4-[2-(2-{5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-yl}-acetylamino)-ethyl]-piperazin-1-yl}-2-oxo-ethyl ester | 100 mg | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C1=C(C(=C(N1)C)CC(=O)NCCN1CCN(CC1)C(COC(C)=O)=O)C | C34H37Cl2N5O7S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
solvent | methanol | 5 mL | CO | CH4O
product | 2-{5-[5-(2,6-Dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-yl}-N-{2-[4-(2-hydroxy-acetyl)-piperazin-1-yl]-ethyl}-acetamide | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C1=C(C(=C(N1)C)CC(=O)NCCN1CCN(CC1)C(CO)=O)C | C32H35Cl2N5O6S
